US05049669
A solution of 10-[(2RS)-1-(N-ethyl-N-methyl-amino)-2-propyl]-2-phenothiazinecarbothioamide (1 g) and 3-methylbutylamine (4.9 cc) in absolute ethanol (15 cc) is saturated with hydrogen sulphide and heated for 16 hours to a temperature in the region of 100° C. After being cooled, the orange solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange oil is purified by chromatography on a column (height: 25 cm; diameter 2 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (80:20 by volume) (500 cc) of ethyl acetate and cyclohexane and collecting 30-cc fractions. Fractions 4 to 8 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. N-(3-Methylbutyl)-10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide (1.3 g) is thereby obtained in the form of an orange-yellow oil.

reactant | 10-[(2RS)-1-(N-ethyl-N-methyl-amino)-2-propyl]-2-phenothiazinecarbothioamide | 1 g | C(C)N(C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C19H23N3S2
reactant | 3-methylbutylamine | 4.9 cc | CC(CCN)C | C5H13N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 15 cc | C(C)O | C2H6O
product | N-(3-Methylbutyl)-10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide | 1.3 g | CC(CCNC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(C)CC)C)C | C24H33N3S2
